US07629344B2
[3-(N-Hydroxycarbamimidoyl)-pyrazolo[3,4-b]pyridin-1-yl]-acetic acid tert-butyl ester (6.17 g) in a 100 mL vial was charged with AcOH (45 mL) and Ac2O (4.3 mL). The resultant mixture was stirred at room temperature for 1 h at this time the initial suspension became a clear solution. To this solution was added Pd/C (10%, 900 mg) and stirred under 1 atm H2 balloon, and resultant mixture was stirred over night at room temperature. The reaction mixture was filtered through a pad of celite washed with DCM/MeOH. Evaporation of the solvent gave (3-amidino-pyrazolo[3,4-b]pyridin-1-yl)-acetic acid tert-butyl ester which was used without further purification.

reactant | [3-(N-Hydroxycarbamimidoyl)-pyrazolo[3,4-b]pyridin-1-yl]-acetic acid tert-butyl ester | 6.17 g | C(C)(C)(C)OC(CN1N=C(C=2C1=NC=CC2)C(NO)=N)=O | C13H17N5O3
reactant | Ac2O | 4.3 mL | CC(=O)OC(=O)C | C4H6O3
catalyst | Pd/C | 900 mg | [Pd] | Pd
solvent | AcOH | 45 mL | CC(=O)O | C2H4O2
product | (3-amidino-pyrazolo[3,4-b]pyridin-1-yl)-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1N=C(C=2C1=NC=CC2)C(N)=N)=O | C13H17N5O2
